US04339267
To a dry, stirred solution of 10 g of 6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-amine in 800 ml of methylene chloride at ambient temperature and pressure was added 14.9 g of 2-nitrobenzenesulfonylisocyanate. The resulting mixture was stirred at reflux temperature (42°) for 2 hours after which the methylene chloride was removed under reduced pressure. The resulting solid was triturated with methanol or 1-chlorobutane and filtered to yield 15 g of N-[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]-2-nitrobenzene-sulfonamide, m.p. 202°-205°. The product showed characteristic absorption bands in the infrared spectrum at 1675 cm-1 and at 1.7, 3.2 and 7.7 to 8.5 ppms by nuclear magnetic resonance spectrum (60 MHz), indicating the title compound.

reactant | 6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-amine | 10 g | CC1=NC(=NC2=C1CCC2)N | C8H11N3
reactant | 2-nitrobenzenesulfonylisocyanate | 14.9 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4N2O5S
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | N-[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]-2-nitrobenzene-sulfonamide | 15 g | CC1=NC(=NC2=C1CCC2)NC(=O)NS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-] | C15H15N5O5S
